US08808703B2
To a solution of (14R,18R)-14-(benzyloxycarbonylamino)-18-(octylcarbamoyloxy)-13,21-dioxo-3,6,9,20-tetraoxa-16-thia-12,22-diazatriacontylphosphonic acid diethyl ester (1 eq) in DCM (0.1 M) was added trimethylsilyl bromide (10 eq). The reaction mixture was stirred at 32° C. overnight then cooled to room temperature, diluted with DCM and concentrated. The crude material was dried under high vacuum for 2 hours then purified by reverse phase high performance liquid chromatography (HPLC) with a C4 column eluting with a gradient of 40-100% MeCN/10 mM NH4OAc (95:5) in 10 mM NH4OAc (pH 9) to afford (14R,18R)-14-amino-18-(octylcarbamoyloxy)-13,21-dioxo-3,6,9,20-tetraoxa-16-thia-12,22-diazatriacontyl phosphonic acid as a white solid. 1H NMR (DMSO-d6): δ 8.57 (t, 1H), 7.42 (m, 2H), 4.78 (m, 1H), 4.01(m, 2H), 3.0-3.6 (m, 18H), 2.88 (m, 4H), 2.52-2.81 (m, 5H), 1.68 (m, 2H), 1.54 (m, 2H), 1.40 (m, 2H), 1.12-1.24 (m, 20H), 0.82 (t, 6H). LRMS [M+H]=745.4.

reactant | (14R,18R)-14-(benzyloxycarbonylamino)-18-(octylcarbamoyloxy)-13,21-dioxo-3,6,9,20-tetraoxa-16-thia-12,22-diazatriacontylphosphonic acid diethyl ester | 1 eq | C(C)OP(OCC)(=O)CCOCCOCCOCCNC([C@H](CSC[C@@H](COC(NCCCCCCCC)=O)OC(NCCCCCCCC)=O)NC(=O)OCC1=CC=CC=C1)=O | C44H79N4O13PS
reactant | trimethylsilyl bromide | 10 eq | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | (14R,18R)-14-amino-18-(octylcarbamoyloxy)-13,21-dioxo-3,6,9,20-tetraoxa-16-thia-12,22-diazatriacontyl phosphonic acid | N[C@H](C(NCCOCCOCCOCCP(O)(O)=O)=O)CSC[C@@H](COC(NCCCCCCCC)=O)OC(NCCCCCCCC)=O | C32H65N4O11PS
